Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p motor vehicle collision
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ who presents to ___ ED on ___ s/p MVC 
into 2 telephone poles found to have left temporal bone fracture 
and R posterior parietal fracture with small amount of adjacent 
pneumocephalus and exceedinly small R apical pneumothorax as 
seen on CT Chest. Patient was an intoxicated driver of the 
vehicle. Serum ETOH 193 on arrival to ED. Patient reports he was 
wearing his seatbelt. Denies LOC however is unable to describe 
mechanism of injury and unsure if patient is accurate historian. 
Reports posterior headache. No visual changes. Denies CP/SOB, 
abdominal pain, N/V/D, fevers/chills.
 
Past Medical History:
PMH:
diabetes mellitus Type 2

PSH:
- s/p L knee ORIF for comminuted L tibial fracture s/p 
motorcycle accident ___
 
Social History:
___
Family History:
reviewed and noncontributory
 
Physical Exam:
Admission Physical Exam:
 
Vitals:  98.2  BP:  102/78   HR: 110  RR: 21  O2 Sat: 98%RA
Gen: A&Ox3, in NAD
HEENT: Multiple abrasions to R forehead/face and anterior 
neck/chest, TTP along L lateral skull; No scleral icterus, mucus 
membranes moist
Pulm: CTAB, no w/r/r
CV: NRRR, no m/r/g
Abd: soft, NT/ND, no rebound/guarding, no palpable masses
Ext: WWP bilaterally, no c/c/e, no ulcerations
Neuro: moves all limbs spontaneously, no focal deficits
 
Discharge Physical Exam:
 
Vitals: 99.7  99.2  99  123/74  18  96% RA
Gen: A&Ox3, well-appearing male, in NAD
HEENT: several well-healing abrasions to R forehead/face and 
anterior neck/chest, TTP along L lateral skull; No scleral 
icterus, mucus membranes moist
Pulm: CTAB, no w/r/r
CV: NRRR, no m/r/g
Abd: soft, NT/ND, no rebound/guarding, no palpable masses
Ext: WWP bilaterally, no c/c/e, no ulcerations
Neuro: moves all limbs spontaneously, no focal deficits
 
Pertinent Results:
==============
ADMISSION LABS
==============

___ 04:25AM BLOOD WBC-19.1* RBC-4.86 Hgb-14.5 Hct-43.7 
MCV-90 MCH-29.8 MCHC-33.2 RDW-13.2 RDWSD-43.2 Plt ___

___ 04:25AM BLOOD ___ PTT-22.6* ___

___ 04:25AM BLOOD Lipase-38

___ 04:25AM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

___ 04:33AM BLOOD Glucose-254* Lactate-2.9* Na-143 K-3.7 
Cl-106 calHCO3-24

========
IMAGING
========
 
___ CXR:
IMPRESSION: 
Tiny right pneumothorax seen on CT chest is not visualized on 
radiograph.

___ CT Head w/o contrast:
IMPRESSION: 
1. Complex calvarial fracture, including a transversely oriented 
occipital bone fracture extending from the right 
occipital/mastoid suture through the occipital bone and into the 
left mastoid, and a right parasagittal occipital bone fracture.
2. 3 mm extra-axial hematoma along the left occipital and 
posterior temporal lobes, contiguous with the left transverse 
sinus.  Possible additional 3 mm extra-axial hematoma in the 
left posterior fossa contiguous with the transverse sinus, 
versus asymmetric appearance of the left sigmoid sinus.
3. Partial opacification of left superior mastoid air cells, 
likely hemorrhagic given the left mastoid fracture.
4. Periapical lucency ___ 3.  Please correlate clinically 
whether active dental inflammation may be present.
 
RECOMMENDATION(S):
1. CT venogram to assess patency of the left transverse sinus.
2. Temporal bone CT for better assessment of left inner ear and 
middle ear structures.

___ CT C spine:
IMPRESSION: 
No cervical spine fracture or malalignment.

___ CT Chest/Abdomen/Pelvis with contrast:
IMPRESSION:
1. Tiny right pneumothorax.
2. No acute trauma in the abdomen or pelvis.

___ CT orbit/sella/IAC w/o contrast:
IMPRESSION:
1. Fracture of the occipital bone, longitudinal fractures of the 
left temporal bone.  No fractures of the right temple bone.
2. Opacified left mastoids, middle ear cavity.
3. The known extra-axial hematoma about torcula and venous 
sinuses are better seen on the same-day CT venogram exam.

___ CT Head venogram:
IMPRESSION: 
1. Extra-axial hematoma along the posterior margin of the 
superior sagittal, and medial bilateral transverse sinuses 
causing moderate to severe narrowing of sinuses, without 
occlusion few air locule is within the sinus, likely related to 
left temporal bone fractures.  No change in the size of 
hematoma.  Consider venous sinus injury as source of hemorrhage, 
close imaging follow-up recommended.
2. Stable acute occipital bone, left temporal bone fractures.

 
Brief Hospital Course:
Mr. ___ was admitted to the Acute Care Surgery Service under 
the care of Dr. ___ for further assessment and clinical 
management of his injuries following his motor vehicle 
collision. His initial injuries identified during his work up in 
the Emergency department included a left temporal skull fracture 
with associated pneumocephalus as well as an exceedingly small 
right pneumothorax without any associated rib fractures. He was 
evaluated by the the Neurosurgery Service regarding his skull 
fracture and pneumocephalus and given that he had no associated 
neurologic sequelae, it was decided that he did not require any 
surgical intervention. He underwent additional imaging at the 
suggestion of the Radiology Department to further characterize 
intracranial structures not well seen on initial imaging - a CT 
venogram identified moderately to severely narrowed bilateral 
transverse sinuses possibly resulting from compression via his 
extra-cranial hematoma. A Neurology consult was obtained to 
assess the need for possible anticoagulation as prophylaxis in 
the setting of stenosis - it was deemed that he did not require 
any anticoagulation as this imaging finding may have been 
related to chronic hypoplastic transverse sinuses. It was 
instead recommended that he undergo repeat imaging and revisit 
in the Neurology/Stroke Clinic in ___ weeks to assess stability 
of the narrowing as well as possible progression of any 
neurologic symptoms.

On the evening of HD2, the patient was tolerating a regular 
diet, voiding and ambulating without difficulty, his pain was 
well controlled with PO pain medications, his wounds were clean, 
dry and intact without any evidence of infection, and he 
remained afebrile, hemodynamically stable, and neurologically 
intact. He was thus deemed ready for discharge home with follow 
up in the Acute Care Surgery Clinic in 2 weeks and was 
instructed to contact the Neuro/Stroke Center to undergo repeat 
CT venogram and follow up visit. The patient expressed 
understanding and agreed to the aforementioned plan at the time 
of discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 500 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
Do not exceed 4000mg in 24 hours.  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
daily Disp #*30 Capsule Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
Do not drink or drive while taking. Please discard extra. 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six hours Disp 
#*10 Tablet Refills:*0 
4.  MetFORMIN (Glucophage) 500 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
left temporal bone fracture
pneumocephalus
possible hypoplastic transverse sinus
right pneumothorax

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the ___ 
for close monitoring following a motor vehicle accident after 
your Emergency Room imaging confirmed that you sustained a skull 
fracture and air inside your skull (pneumocephalus), which can 
be dangerous. You were seen by the Neurosurgery Service who 
determined that you did not have any injuries that required 
surgery. You did have additional CAT scans of your head that 
showed narrowed veings in the brain that were concerning for 
high risk of blood clot in the brain (venous thrombosis). 
Neurology determined that you do not need any blood thinners for 
this, but recommended that you follow up in the Neuro/Stroke 
Clinic with repeat CAT scan to make sure you're recovering well.

Additionally, your imaging showed a very small amount of air in 
your lung cavity (pneumothorax). This resolved on its own after 
repeat your chest xray the following day and you did not require 
any additional interventions. You will be seen in Acute Care 
Surgery Clinic to make sure you are recovering well from your 
overall trauma. You are now ready to be discharged home. Please 
see below for additional instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Call or return immediately if your pain is getting worse or 
changes location or moving to your chest or back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Pain control:
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.

* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.

Thank you very much for the opportunity to participate in your 
care. Best wishes for a speedy recovery!
 
Followup Instructions:
___